US06320059B1
Preparation of 2-(p-Chlorophenyl)-5-(trifluoromethyl)pyrrole-3-carbonitrile
A solution of N-[1-chloro-(2,2,2-trifluoroethyl)]-4-chlorobenzimidoyl chloride (5.80 g, 0.02 mol) and acrylonitrile (1.33 g, 0.025 mol) in N,N-dimethyl-formamide (15 mL) is treated with 1,8-diazabicyclo-[5.4.0]undec-7-ene (DBU, 8.53 g, 0.056 mol) over 1 hour while maintaining the temperature at 45°-50° C. The reaction mixture is then stirred at 50° C. for 4 hours, quenched with dilute HCl, and extracted with ethyl acetate. The organic extract is concentrated in vacuo to obtain a residue. Flash chromatography of the residue on silica gel, packed and eluted with 20% ethyl acetate in heptane, and crystallization from heptane and small amount of ethyl acetate gives the title product as a white crystalline solid (2.1 g, 38.9% yield): mp 239-240° C. (dec).

reactant | N-[1-chloro-(2,2,2-trifluoroethyl)]-4-chlorobenzimidoyl chloride | 0.02 mol, 5.80 g | ClC(C(F)(F)F)N=C(C1=CC=C(C=C1)Cl)Cl | C9H5Cl3F3N
reactant | acrylonitrile | 0.025 mol, 1.33 g | C(C=C)#N | C3H3N
reactant | 1,8-diazabicyclo-[5.4.0]undec-7-ene | 0.056 mol, 8.53 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | N,N-dimethyl-formamide | 15 mL | CN(C=O)C | C3H7NO
product | 2-(p-Chlorophenyl)-5-(trifluoromethyl)pyrrole-3-carbonitrile | 2.1 g, 38.9% yield | ClC1=CC=C(C=C1)C=1NC(=CC1C#N)C(F)(F)F | C12H6ClF3N2
